US04328349
One mole of ethyl 2-hydroxyimino-acetoacetate, prepared from 130 g. (1 m.) of ethyl acetoacetate, was added over 75 minutes to a stirred suspension of 166 ml. (3 m.) of concentrated sulfuric acid and 105 g. (3.5 m.) of paraformaldehyde at 5°-10°. The mixture was stirred at 5°-10° for four hours and aqueous ammonia (28%) was added to pH 5 and the temperature rose to 70°. The reaction mixture was held for 30 minutes at pH 5 at 65°-70° and then neutralized with aqueous ammonia (28%). The mixture was cooled to 10°. The solid material was filtered off, washed with water and isopropanol and dried to give ethyl 5-methyl-4-imidazolecarboxylate (yield 50%).

reactant | ethyl 2-hydroxyimino-acetoacetate | One mole | ON=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | paraformaldehyde | C=O | CH2O
reactant | ammonia | N | H3N
product | ethyl 5-methyl-4-imidazolecarboxylate | yield 50% | CC1=C(N=CN1)C(=O)OCC | C7H10N2O2
